US08809369B2
To a suspension of 60% sodium hydride (560 mg, 14 mmol) in N,N-dimethylformamide (5 mL) was added methanesulfonamide (1.33 g, 14 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A22. A solution of 4,4-dimethyl-2-(2-methyl-5-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (800 mg, 2 mmol) and 1,1′-carbonyldiimidazole (690 mg, 4 mmol) in N,N-dimethylformamide (3 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B22. Solution B22 was added to Solution A22 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded N-[4,4-dimethyl-2-(2-methyl-5-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-methanesulfonamide (239 mg, 26%) as a white solid: MS (ESI) M+1=458.1.

reactant | sodium hydride | 14 mmol, 560 mg | [H-].[Na+]
reactant | methanesulfonamide | 14 mmol, 1.33 g | CS(=O)(=O)N | CH5NO2S
reactant | 4,4-dimethyl-2-(2-methyl-5-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 2 mmol, 800 mg | CC1(CC(NC2=CC=C(C=C12)C(=O)O)C1=C(C=CC(=C1)N1CCOCC1)C)C | C23H28N2O3
reactant | 1,1′-carbonyldiimidazole | 4 mmol, 690 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | N-[4,4-dimethyl-2-(2-methyl-5-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-methanesulfonamide | 239 mg, 26% | CC1(CC(NC2=CC=C(C=C12)C(=O)NS(=O)(=O)C)C1=C(C=CC(=C1)N1CCOCC1)C)C | C24H31N3O4S
